US07612114B2
6-{2-{{4-{2-[Bis(2-methoxyethyl)amino]ethoxy}benzyl}propylamino}-4methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-{2-[(4-hydroxybenzoyl)propylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (21 mg) and 2-chloro-N,N-bis(2-methoxyethyl)acetamide (17 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (3.7 mg) was obtained.

reactant | pivalic acid 6-{2-[(4-hydroxybenzoyl)propylamino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 21 mg | OC1=CC=C(C(=O)CCCNC2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)OC(C(C)(C)C)=O)C=C1 | C32H37NO5
reactant | 2-chloro-N,N-bis(2-methoxyethyl)acetamide | 17 mg | ClCC(=O)N(CCOC)CCOC | C8H16ClNO3
product | 6-{2-{{4-{2-[Bis(2-methoxyethyl)amino]ethoxy}benzyl}propylamino}-4methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 3.7 mg | COCCN(CCOC1=CC=C(CCCCNC2=C(C=CC(=C2)OC)C2CC=3C=CC(=CC3CC2)O)C=C1)CCOC | C35H48N2O5
